US04325879
Acetoxy-3β azido-14β androstane
Using the procedures of Example 1, acetoxy-3β hydroxy-14β androstane was treated with an aromatic solution of hydrazoic acid and boron trifluoride etherate.

reactant | acetoxy-3β hydroxy-14β androstane | C(C)(=O)OC[C@@]12CCC[C@@H]1[C@@H]1CCC3C[C@H](CC[C@]3(C)[C@H]1CC2)O | C21H34O3
reactant | hydrazoic acid | N=[N+]=[N-] | HN3
reactant | boron trifluoride etherate | B(F)(F)F.CCOCC
product | Acetoxy-3β azido-14β androstane | C(C)(=O)OC[C@@]12CCC[C@@H]1[C@@H]1CCC3C[C@H](CC[C@]3(C)[C@H]1CC2)N=[N+]=[N-] | C21H33N3O2
